US04581456
PREPARATION OF 4-(3-METHOXYPHENYL)-1-METHYL4-PIPERIDINOL
A suitable dry reaction vessel having a mechanical stirrer, low temperature thermometer and addition funnel was charged with 250 g (1.34 mol) of m-bromoanisole (Aldrich Chemical Company, Milwaukee, Wis.) in 675 ml of dry tetrahydrofuran and the solution was cooled under nitrogen to -50° C. to -55° C. in a dry ice/acetone bath. A solution of 1357 ml. of sec.-butyllithium in cyclohexane (1.71 mol) was added dropwise to the reaction mixture at such a rate so that the temperature did not rise above -50° C. The resulting white suspension was stirred at -50° C. for 1 hour followed by the addition of 174.2 g (1.54 mol) of 1-methyl-4-piperidone (Aldrich Chemical Company) in 440 ml of dry tetrahydrofuran so as to maintain the reaction temperature below -40° C. When the addition was complete the temperature was allowed to rise to approximately -20° C. over approximately 11/2 hours and then to room temperature over a 1 hour period. Residual sec.-butyllithium was quenched by the addition of 350 ml of saturated sodium chloride solution followed by the addition of 525 ml of water. The aqueous phase was separated and extracted twice with 350 ml portions of methylene chloride. The combined organic extracts were extracted in two portions, each with 1250 ml of 1N hydrochloric acid. The separated aqueous extracts were made basic (pH=10) with 28 percent ammonium hydroxide and extracted 3 times with 350 ml portions of methylene chloride. The organic phase was dried over anhydrous sodium sulfate and the solvent was evaporated in vacuo. The residue was slurried in 1000 ml of hot hexane and the slurry was cooled and filtered. The isolated crystalline product was dried in a vacuum oven to provide 225.6 g of 98% pure product.

reactant | m-bromoanisole | 1.34 mol, 250 g | BrC=1C=C(C=CC1)OC | C7H7BrO
reactant | sec.-butyllithium | C(C)(CC)[Li]
reactant | cyclohexane | 1.71 mol | C1CCCCC1 | C6H12
reactant | 1-methyl-4-piperidone | 1.54 mol, 174.2 g | CN1CCC(CC1)=O | C6H11NO
solvent | tetrahydrofuran | 675 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 440 ml | O1CCCC1 | C4H8O
product | 4-(3-METHOXYPHENYL)-1-METHYL4-PIPERIDINOL | 98% | COC=1C=C(C=CC1)C1(CCN(CC1)C)O | C13H19NO2
